US07384983B2
(R)-3-iodo-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane
A mixture of (R)-3-chloro-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane (0.200 gm, 0.63 mMol) and 15 mL acetone saturated with potassium iodide was stirred at reflux under argon overnight. The reaction mixture was poured into 50 mL diethyl ether and the resulting suspension was filtered. The filtrated was washed with saturated aqueous sodium hydrogen sulfite followed by water. The remaining organic phase was dried over magnesium sulfate and concentrated under reduced pressure to provide 0.18 gm (70%) of the desired compound as a colorless oil.

reactant | (R)-3-chloro-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane | 0.63 mMol, 0.200 gm | ClCC[C@@H](OC1=C(C=C(C=C1)OC(C)=O)C)C1=CC=CC=C1 | C18H19ClO3
reactant | acetone | 15 mL | CC(=O)C | C3H6O
reactant | potassium iodide | [I-].[K+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (R)-3-iodo-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane | 0.18 gm, 70% | ICC[C@@H](OC1=C(C=C(C=C1)OC(C)=O)C)C1=CC=CC=C1 | C18H19IO3
